US09238640B2
Preparation of 2-(2,6-Dimethylpyridin-4-yl)-7-methoxy-5-(2-(pyrrolidin-1-yl)ethoxy)quinazolin-4(3H)-one
To a solution of 2-(2,6-dimethyl-pyridin-4-yl)-7-fluoro-5-(2-pyrrolidin-1-yl-ethoxy)-3H-quinazolin-4-one (0.30 g, 0.80 mmol) in anhydrous DMF (5 mL) was added a solution of sodium methoxide in methanol (25 wt %, 0.43 g, 8.00 mmol) and the reaction mixture was stirred at 70° C. for 16 h. After cooling to room temperature, water (10 mL) was added, and the mixture was neutralized to pH approximately 6 with acetic acid. The solvent was evaporated, and the residue was purified by the Simpliflash system (2% methanol in CH2Cl2 and then 4% 7.0 M ammonia in methanol and CH2Cl2 as eluent) to give the title compound as a yellow solid. Yield: 0.100 g (32%). MP 190-191° C. 1H NMR (400 MHz, CDCl3): δ 7.59 (s, 2H), 6.86 (d, J=1.95 Hz, 1H), 6.53 (d, J=1.95 Hz, 1H), 4.25 (t, J=6.05 Hz, 2H), 3.93 (s, 3H), 3.03 (t, J=6.24 Hz, 2H), 2.69 (br s, 4H), 2.64 (s, 6H), 1.93-1.70 (m, 4H). MS (ES+) m/z: 395.22 (M+1) and 298.12 (100%).

reactant | 2-(2,6-dimethyl-pyridin-4-yl)-7-fluoro-5-(2-pyrrolidin-1-yl-ethoxy)-3H-quinazolin-4-one | 0.80 mmol, 0.30 g | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OCCN1CCCC1)F)C | C21H23FN4O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 8.00 mmol, 0.43 g | CO | CH4O
reactant | water | 10 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2,6-Dimethylpyridin-4-yl)-7-methoxy-5-(2-(pyrrolidin-1-yl)ethoxy)quinazolin-4(3H)-one | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OCCN1CCCC1)OC)C | C22H26N4O3
